US05604252
(2SR, 3SR, 4RS)-2-diphenylmethyl-3-[(2-methoxy-5-(1-methylethyl)phenyl)methylamino]-4-(2-methoxyethyl)pyrrolidine
A solution of 109 mg (0.35 mmol) of [(2SR, 3SR, 4RS)-2-diphenylmethyl-3-amino-4-(2-methoxyethyl)pyrrolidine] (the product of Example 27B) in 35 ml of dichloroethane was treated with 63 mg (0.35 mmol) of 2-methoxy-5-isopropylbenzaldehyde and 104 mg (0.49 mmol) of sodium triacetoxyborohydride. The reaction mixture was stirred for 18 hours and then quenched with 30 ml of saturated aqueous sodium bicarbonate. The reaction mixture was extracted with methylene chloride and the organic phase was washed with brine, dried and evaporated. The residue was chromatographed on silica gel eluting with 97/2/1 (methylene chloride/methanol/ammonia) to afford 102 mg (62%) of the title compound.

reactant | 2-diphenylmethyl-3-amino-4-(2-methoxyethyl)pyrrolidine | C1(=CC=CC=C1)C(C1NCC(C1N)CCOC)C1=CC=CC=C1 | C20H26N2O
reactant | 2-methoxy-5-isopropylbenzaldehyde | 0.35 mmol, 63 mg | COC1=C(C=O)C=C(C=C1)C(C)C | C11H14O2
reactant | sodium triacetoxyborohydride | 0.49 mmol, 104 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 35 ml | ClC(C)Cl | C2H4Cl2
product | 2-diphenylmethyl-3-[(2-methoxy-5-(1-methylethyl)phenyl)methylamino]-4-(2-methoxyethyl)pyrrolidine | 102 mg, 62% | C1(=CC=CC=C1)C(C1NCC(C1NCC1=C(C=CC(=C1)C(C)C)OC)CCOC)C1=CC=CC=C1 | C31H40N2O2
